US08835449B2
N-(2-aminoethyl)-2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetamide hydrochloride
To cold (0° C.) ethanol (21.5 mL) under nitrogen was added acetyl chloride (1.55 mL) dropwise over 5 minutes, and the reaction mixture was then heated at 50° C. for 30 minutes. The reaction mixture was cooled to room temperature and tert-butyl (2-(2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetamido)ethyl)carbamate was added (1.0 g, 2.15 mmol), followed by heating to 50° C. for 1 hour. The mixture was cooled to room temperature and concentrated under reduced pressure. The residue was suspended in ethanol (10 mL), heated to 75° C. for 20 minutes, and EtOAc (20 mL) was added and heating was continued for another 20 minutes. The mixture was allowed to slowly cool to down to room temperature with stirring during 18 hours. The resultant precipitate was filtered and dried in a vacuum oven at 70° C. for 20 hours to give the title compound (751 mg, 87%) as a white solid.

reactant | acetyl chloride | 1.55 mL | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl (2-(2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetamido)ethyl)carbamate | COC1=C(C=CC(=C1)OC)C1=CC(NC(N1CC(=O)NCCNC(OC(C)(C)C)=O)=S)=O | C21H28N4O6S
solvent | ethanol | 21.5 mL | C(C)O | C2H6O
product | N-(2-aminoethyl)-2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetamide hydrochloride | 751 mg, 87% | Cl.NCCNC(CN1C(NC(C=C1C1=C(C=C(C=C1)OC)OC)=O)=S)=O | InChI=1S/C16H20N4O4S.ClH/c1-23-10-3-4-11(13(7-10)24-2)12-8-14(21)19-16(25)20(12)9-15(22)18-6-5-17;/h3-4,7-8H,5-6,9,17H2,1-2H3,(H,18,22)(H,19,21,25);1H
